US07718693B2
1,1-Dimethylethyl {[2-fluoro-3-(trifluoromethyl)phenyl]methyl}carbamate (1.17 g, 4 mmol) was dissolved in dimethylsulphoxide (5 ml) and treated with potassium cyanide (0.260 g, 4 mmol). The mixture was then heated at 80° C. under argon for 1.5 hrs and then at 120° C. overnight (16 hrs). Additional potassium cyanide (0.260 g, 4 mmol) was then added and heating continued at 120° C. for a further 24 hrs. The mixture was then cooled to room temperature, quenched with water, and diluted with ethyl acetate. The organic extracts were separated and washed three times with water and then with saturated aqueous sodium chloride solution. Drying and evaporation gave a brown gum which was purified by silica-gel column chromatography, eluting with a 1:10-1:5 gradient of ethyl acetate in hexanes, to give partially pure 1,1-dimethylethyl {[2-cyano-3-(trifluoromethyl)phenyl]methyl}carbamate as a dark solid/semi-solid which was used in the next step without further purification.

reactant | 1,1-Dimethylethyl {[2-fluoro-3-(trifluoromethyl)phenyl]methyl}carbamate | 4 mmol, 1.17 g | FC1=C(C=CC=C1C(F)(F)F)CNC(OC(C)(C)C)=O | C13H15F4NO2
reactant | potassium cyanide | 4 mmol, 0.260 g | [C-]#N.[K+]
reactant | potassium cyanide | 4 mmol, 0.260 g | [C-]#N.[K+]
solvent | dimethylsulphoxide | 5 ml | CS(=O)C | C2H6OS
product | 1,1-dimethylethyl {[2-cyano-3-(trifluoromethyl)phenyl]methyl}carbamate | C(#N)C1=C(C=CC=C1C(F)(F)F)CNC(OC(C)(C)C)=O | C14H15F3N2O2
